US04055595
A mixture of (±)-2-hydroxy-3,3,3-trifluoropropionic acid (7.8 g.), methanol (10 ml.) and concentrated sulphuric acid (0.5 ml.) is heated under reflux for 2 days. The cooled solution is poured into water (100 ml.), the mixture is saturated with sodium sulphate, and is extracted three times with ether. The extract is dried with sodium sulphate and evaporated. The residual oil (8.6 g.) is fractionally distilled to give (±)-methyl 2-hydroxy-3,3,3-trifluoropropionate b.p. 60°-64° C. at 12 mm. pressure, m.p. 50°-53° C. (3.9 g.).

reactant | (±)-2-hydroxy-3,3,3-trifluoropropionic acid | 7.8 g | OC(C(=O)O)C(F)(F)F | C3H3F3O3
reactant | methanol | 10 ml | CO | CH4O
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | (±)-methyl 2-hydroxy-3,3,3-trifluoropropionate | OC(C(=O)OC)C(F)(F)F | C4H5F3O3
